US06380215B1
To a solution of (s)-N-tert-butyldimethylsilyl-4 (2,2-dibromoethenyl)-2-azetidinone (0.63 g) was added lithium bis(trimethylsilyl)amide (3.75 ml, 1 mol solution in n-hexane) at −75° C. After stirring at −75° C. for 1 hour, a saturated aqueous NH4Cl solution was added and extracted with ethyl acetate. The extract was washed with water and brine, dried over MgSO4, and evaporated in vacuo. The residue was purified by chromatography on silica gel eluting with (diethyl ether:n-hexane=1:5) to give (S)-N-tert-butyldimethylsilyl-4-ethynyl-2-azetidinone (0.20 g) as an colorless oil.

reactant | (s)-N-tert-butyldimethylsilyl-4 (2,2-dibromoethenyl)-2-azetidinone | 0.63 g | [Si](C)(C)(C(C)(C)C)N1C(C[C@H]1C=C(Br)Br)=O | C11H19Br2NOSi
reactant | lithium bis(trimethylsilyl)amide | 1 mol, 3.75 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | NH4Cl | [NH4+].[Cl-]
product | (S)-N-tert-butyldimethylsilyl-4-ethynyl-2-azetidinone | 0.20 g | [Si](C)(C)(C(C)(C)C)N1C(C[C@H]1C#C)=O | C11H19NOSi
